US05811439
The same procedures used in Example 7 were repeated except for using 5.49 g of bromoacetophenone and 2.00 g of indole-4-carbaldehyde as a starting material to give 494 mg of 1-phenacylindole-4-carbaldehyde as yellow crystals. The yield thereof was found to be 14%.

reactant | bromoacetophenone | 5.49 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-phenacylindole-4-carbaldehyde | 494 mg | C(C(=O)C1=CC=CC=C1)N1C=CC=2C(=CC=CC12)C=O | C17H13NO2
